US05780669
80 g of 60% sodium hydride was suspended in 1,000 ml of N,N-dimethylformamide. To this suspension was dropped 352 ml of tert-butyl acrylate within 30 minutes under ice-cooling. Then 207 ml of methyl dichloroacetate was dropped into this reaction mixture within 1.5 hours while maintaining the internal temperature at 10° C. After the completion of the addition, the mixture was stirred for 2 hours while maintaining the internal temperature at 10° to 20° C. Then the reaction mixture was neutralized by adding concentrated hydrochloric acid and water was-further added thereto. The reaction mixture was extracted with ethyl acetate and the organic layer was washed with a saturated aqueous solution of sodium chloride. The extract was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was distilled under reduced pressure to thereby give 384 g (yield 84%) of methyl 2-tert-butoxycarbonyl-1-chloro-1-cyclopropanecarboxylate in the form of a colorless oily product.

reactant | sodium hydride | 80 g | [H-].[Na+]
reactant | tert-butyl acrylate | 352 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | methyl dichloroacetate | 207 ml | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-tert-butoxycarbonyl-1-chloro-1-cyclopropanecarboxylate | 384 g, yield 84% | C(C)(C)(C)OC(=O)C1C(C1)(C(=O)OC)Cl | C10H15ClO4
